US08420690B2
b) 1,1-dimethylethyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-2-phenylethyl]carbamate
To a solution of 1,1-dimethylethyl (2-hydroxy-2-phenylethyl)carbamate (2 g, 8.44 mmol), phthalimide (1 g, 7.03 mmol) and triphenylphosphine (2.76 g, 10.5 mmol) in THF (35 mL) at 25° C. was added DEAD (1.7 mL, 10.5 mmol) dropwise. After 0.5 h, the solution was concentrated and purified via column chromatography (silica, 15% EtOAc in hexanes) affording the title compound (2 g, 80%) as a white foam: LC-MS (ES) m/z=367 (M+H)+.

reactant | 1,1-dimethylethyl (2-hydroxy-2-phenylethyl)carbamate | 8.44 mmol, 2 g | OC(CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C13H19NO3
reactant | phthalimide | 7.03 mmol, 1 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 10.5 mmol, 2.76 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 10.5 mmol, 1.7 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-2-phenylethyl]carbamate | 2 g, 80% | O=C1N(C(C2=CC=CC=C12)=O)C(CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C21H22N2O4
